Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.22582654069
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:11]([H:12])[H:13].[H:3][C:4]([H:5])=[C:9]([C:6]([H:7])[H:8])[H:10],4.42203144729
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])=[O:6],1.04980754585
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[O:8][H:9]>>[C:4](#[C:5][O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3],3.85674837483
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.53590115809
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.13515561685
[C:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:11].[C:3]=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.09918451762
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-5.49755162977
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.71544634982
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7],3.1204266734
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[O:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.96784728827
[C:1].[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.187713026789999
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.75777075975
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][H:5],4.04606680834
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],0.702312635938
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.01979395473
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:12]([H:13])([H:14])[H:15],4.6759520006
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-3.9814139273
[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.069095658469998
[H:15].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.90581270548
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],4.32906238829
[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-5.04438668237
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.46016158627
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],3.05962175053
[H:1][C:2]#[C:3][C:7]([O:6][C:4][H:5])=[C:8]([H:9])[H:10]>>[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7]1=[C:8]([H:9])[H:10],-0.254958540801
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.59394416156
[O:1]=[C:2][C:10]([C:7]([C:6]=[C:3]([H:4])[H:5])([H:8])[H:9])([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-0.80713759868
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[H:4],5.20206207845
